US04857527
A mixture of 3-(3-nitrophenyl)-1-phenyl-2-propen-1-one (2 g), ethyl 3-aminocrotonate (1.2 g) and n-butanol (20 ml) was refluxed for 6 hours. After allowing to cool at ambient temperature, the reaction mixture was evaporated in vacuo. The residue was subjected to a column chromatography on silica gel (150 ml) eluting with a mixture of benzene and ethyl acetate (30:1 V/V). The fractions containing the object compound were combined and concentrated under reduced pressure to give ethyl 1,4-dihydro-2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylate (0.6 g).

reactant | 3-(3-nitrophenyl)-1-phenyl-2-propen-1-one | 2 g | [N+](=O)([O-])C=1C=C(C=CC1)C=CC(=O)C1=CC=CC=C1 | C15H11NO3
reactant | ethyl 3-aminocrotonate | 1.2 g | N\C(=C/C(=O)OCC)\C | C6H11NO2
solvent | n-butanol | 20 ml | C(CCC)O | C4H10O
product | ethyl 1,4-dihydro-2-methyl-4-(3-nitrophenyl)-6-phenyl-3-pyridinecarboxylate | 0.6 g | CC=1NC(=CC(C1C(=O)OCC)C1=CC(=CC=C1)[N+](=O)[O-])C1=CC=CC=C1 | C21H20N2O4
